US06566373B2
c) 3,3-Dimethoxy-4-benzyloxycarbonylamino-tetrahydrofuran
Trimethylorthoformate (29 ml) was added dropwise to a refluxing solution of 4-benzyloxycarbonylamino-tetrahydrofuran-3-one (18 g, 78 mmol) and PTSA (500 mg) in MeOH (100 ml). After 3 hours, the reaction mixture was filtered and concentrated to afford, after column chromatography, the title compound as a yellow oil, 16.2 g, 76%.

reactant | Trimethylorthoformate | 29 ml | COC(OC)OC | C4H10O3
reactant | 4-benzyloxycarbonylamino-tetrahydrofuran-3-one | 78 mmol, 18 g | C(C1=CC=CC=C1)OC(=O)NC1C(COC1)=O | C12H13NO4
reactant | PTSA | 500 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | MeOH | 100 ml | CO | CH4O
product | 3,3-Dimethoxy-4-benzyloxycarbonylamino-tetrahydrofuran | COC1(COCC1NC(=O)OCC1=CC=CC=C1)OC | C14H19NO5
